datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],40.5848
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([O:3][O:4][H:14])([H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([H:15])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],64.49636
[C:0]1([H:10])=[C:1]([H:11])[C:2]([C:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]2([H:17])[H:18])[C:8]([H:19])=[C:9]1[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([H:17])[H:18])[H:16])[H:15])([H:13])[H:14])[H:12])[C:8]([H:19])=[C:9]1[H:20],147.6952
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:18],188.9310304
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])[H:10].[H:11],143.891944
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])[H:6],50.5846
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[O:11][O:12][H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3](=[O:4])[H:10])[O:11][O:12][H:13])([H:5])[H:6],44.3504
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18](=[S:19])[H:24])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:20])([H:21])[H:22])([C:18](=[S:19])[H:24])[H:23],12.9704
[O:0][O:1][C:2]([C:3]([C:4]([C:5]([O:6][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([O:6][H:15])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:13],60.1659
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:7])[H:6])[H:5]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:6])([H:5])[H:7],135.98
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:22]([H:23])([H:24])[H:25])[H:13])([H:10])([H:11])[H:12],39.4133
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([S:16][H:26])[c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:23])([H:24])[H:25])([S:16][H:26])[c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31],50.8774
[C:0]([C:1]([C:2]([C:3]([S:4][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2]([C:3]([S:4])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[H:13],8.53536
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]1([H:16])([H:17])[C:8]([H:18])([H:19])[C:9]([H:20])([H:21])[C:10]2([H:22])[C:11]([H:23])([H:24])[C:12]([H:25])([H:26])[C:13]([H:27])([H:28])[C:14]2([H:29])[C:15]1([H:30])[H:31]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:25])[H:4].[C:7]1([H:16])([H:17])[C:8]([H:18])([H:19])[C:9]([H:20])([H:21])[C:10]2([H:22])[C:11]([H:23])([H:24])[C:12]([H:26])[C:13]([H:27])([H:28])[C:14]2([H:29])[C:15]1([H:30])[H:31],26.3592
[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])[H:3]>>[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4],177.402
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:16]([C:15](=[C:14]([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:8])([H:6])[H:7],61.1282
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([O:9][O:10])([H:11])([H:12])[H:13]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:10][O:9][C:8]([H:11])([H:12])[H:13],58.19944
